US07407691B2
19 g of ethyl hydroxycinnamate and 7.3 g of potassium hydroxide were added to 150 ml of ethanol, and stirred at 50° C. for 1 hour. This was cooled to 40° C., and 35 g of 3-[(tosyloxy)methyl]-3-ethyloxetane was dropwise added to it. Then, this was refluxed for 3 hours. Ethanol was evaporated away, and water and toluene were added to it for liquid-liquid separation. The toluene layer was washed with 3% hydrochloric acid, saturated sodium hydrogencarbonate and water, and then toluene was evaporated away. To the resulting residue, added were 20 g of sodium hydroxide, 100 ml of ethanol and 50 ml of water, and this was refluxed for 2 hours. Ethanol was evaporated away, and the resulting residue was poured into 500 ml of 5% hydrochloric acid, and a crystal was thus formed. The crystal taken out through filtration was recrystallized from a mixed solvent of ethanol and water, and 5 g of 4-(3-ethyloxetan-3-ylmethoxy)cinnamic acid (OX6) was obtained. Its melting point was 127.5° C.

reactant | ethyl hydroxycinnamate | 19 g | OC(C(=O)OCC)=CC1=CC=CC=C1 | C11H12O3
reactant | potassium hydroxide | 7.3 g | [OH-].[K+]
reactant | 3-[(tosyloxy)methyl]-3-ethyloxetane | 35 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCC1(COC1)CC | C13H18O4S
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4-(3-ethyloxetan-3-ylmethoxy)cinnamic acid | 5 g | C(C)C1(COC1)COC1=CC=C(C=CC(=O)O)C=C1 | C15H18O4
